US06610701B2
A solution of 2′-methylacetophenone (0.98 ml, 7.4 mmol), ethyl carbazate (0.81 g, 7.8 mmol) and p-toluenesulfonic acid monohydrate (70 mg, 0.37 mmol) in toluene (30 ml) was heated at reflux temperature with a Dean-Stark apparatus for 2 h. Solvent evaporation and flash chromatography (silica gel, hexane-ethyl acetate, 80:20) gave N′-(1-o-tolyl-ethylidene)-hydrazinecarboxylic acid ethyl ester; 1H NMR (CDCl3, 400 MHz) δ7.72 (bs, 1H), 7.21 (m, 4H), 4.31 (q, 2H, J=7.1 Hz), 2.37 (s, 3H), 2.17 (s, 3H), 1.34 (t, 3H, J=7.1 Hz).

reactant | 2′-methylacetophenone | 7.4 mmol, 0.98 ml | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | ethyl carbazate | 7.8 mmol, 0.81 g | C(NN)(=O)OCC | C3H8N2O2
reactant | p-toluenesulfonic acid monohydrate | 0.37 mmol, 70 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(1-o-tolyl-ethylidene)-hydrazinecarboxylic acid ethyl ester | C(C)OC(=O)NN=C(C)C1=C(C=CC=C1)C | C12H16N2O2
